US04937268
[4-Amino-3,5-dichloro-α-[[[3-[2-(3-phenoxypropoxy)ethoxy]propyl](phenylmethyl)amino]methyl]benzenemethanol
1-[4-Amino-3,5-dichlorophenyl]-2-bromoethanone (0.95 g), N-[3-[2-(3-phenoxypropoxy)ethoxy]propyl]benzenemethanamine (1.15 g) and DEA (0.48 g) were stirred together in THF (35 ml) at room temperature under nitrogen for 7 h. The mixture was filtered and the filtrate evaporated in vacuo. The residue was dissolved in methanol (35 ml) and treated portionwise with sodium borohydride (0.34 g), at 0° C. under nitrogen, stirred at room temperature for 18 h, diluted with water (150 ml) and the solvent evaporated in vacuo. The residue was extracted with ethyl acetate (2×150 ml), dried and evaporated in vacuo to give an oil. Purification by FCC eluting with System H (95:5:1) gave the title compound (1.30 g) as an oil. T.l.c. (System H 90:10:1) Rf 0.39

reactant | 1-[4-Amino-3,5-dichlorophenyl]-2-bromoethanone | 0.95 g | NC1=C(C=C(C=C1Cl)C(CBr)=O)Cl | C8H6BrCl2NO
reactant | N-[3-[2-(3-phenoxypropoxy)ethoxy]propyl]benzenemethanamine | 1.15 g | O(C1=CC=CC=C1)CCCOCCOCCCNCC1=CC=CC=C1 | C21H29NO3
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 4-Amino-3,5-dichloro-α-[[[3-[2-(3-phenoxypropoxy)ethoxy]propyl](phenylmethyl)amino]methyl]benzenemethanol | 1.30 g | NC1=C(C=C(C=C1Cl)C(O)CN(CC1=CC=CC=C1)CCCOCCOCCCOC1=CC=CC=C1)Cl | C29H36Cl2N2O4
